US04297497
In a manner analogous to that described in Example 12D hereinabove, starting with N1 -isopropyl-2-methyl-1,2-propanediamine, chloroform and methylphenylketone, trihexylamine catalyzes a reaction with aqueous alkali to produce N1 -isopropyl-3,5,5-trimethyl-4-phenyl-2-piperazinone which has a m pt of 73°-6° C.

reactant | N1 -isopropyl-2-methyl-1,2-propanediamine | C(C)(C)NCC(C)(N)C | C7H18N2
reactant | methylphenylketone | CC(=O)C1=CC=CC=C1 | C8H8O
reactant | trihexylamine | C(CCCCC)N(CCCCCC)CCCCCC | C18H39N
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | N1 -isopropyl-3,5,5-trimethyl-4-phenyl-2-piperazinone | C(C)(C)N1C(C(N(C(C1)(C)C)C1=CC=CC=C1)C)=O | C16H24N2O
